US07687503B2
6.1. 2-(methylamino)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1-piperazinecarboxylate
The process is performed as described in Example 1 (step 1.4.). Starting with 2.20 g (5.91 mmol) of 2-(ethyloxy)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1-piperazinecarboxylate, obtained in step 3.3. of Example 3, and 14.80 ml (29.55 mmol) of a solution of methylamine (2M) in tetrahydrofuran, and after crystallization from diisopropyl ether, 1.974 g of pure product are obtained in the form of a white solid.

reactant | 2-(ethyloxy)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1-piperazinecarboxylate | 5.91 mmol, 2.20 g | BrC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)OCC | C14H18BrN3O4
reactant | methylamine | 2M | CN | CH5N
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(methylamino)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1-piperazinecarboxylate | BrC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)NC | C13H17BrN4O3
